### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Group): add theorem for involution preserves lebesgue integral of inverse invariant measure

### PR DESCRIPTION
**Pull request by DavidLedvinka**
Add "lintegral_inv_eq_self" which states that involuting a function does not change its Lebesgue integral with respect to a
inverse-invariant measure. I would like to use this to prove facts about the (lintegral) convolution of functions (which I am working on).

### CODE REVIEW

File: Mathlib/MeasureTheory/Group/LIntegral.lean [hunk 1]
```diff
@@ -53,6 +53,21 @@ theorem lintegral_div_right_eq_self [IsMulRightInvariant μ] (f : G → ℝ≥0
...
+variable [Group G] [MeasurableInv G]
+
+/-- Involuting a function does not change its Lebesgue integral with respect to a
+inverse-invariant measure. -/
+@[to_additive]
+theorem lintegral_inv_eq_self [IsInvInvariant μ] (f : G → ℝ≥0∞) :
+   (∫⁻ x, f x⁻¹ ∂μ) = ∫⁻ x, f x ∂μ := by
+   convert (lintegral_map_equiv f <| MeasurableEquiv.inv _).symm
+   nth_rewrite 1 [← map_inv_eq_self μ]
+   rfl
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Group/LIntegral.lean:67]: Parentheses and spaces:
```suggestion
   ∫⁻ x, f x⁻¹ ∂μ = ∫⁻ x, f x ∂μ := by
 convert (lintegral_map_equiv f <| MeasurableEquiv.inv _).symm
 nth_rewrite 1 [← map_inv_eq_self μ]
 rfl
```

File: Mathlib/MeasureTheory/Group/LIntegral.lean [hunk 2]
```diff
@@ -53,6 +53,21 @@ theorem lintegral_div_right_eq_self [IsMulRightInvariant μ] (f : G → ℝ≥0
 
 end MeasurableMul
 
+section MeasurableInv
+
+variable [Group G] [MeasurableInv G]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Group/LIntegral.lean:58]: You can weaken `Group` to `InvolutiveInv`.
```suggestion
variable [InvolutiveInv G] [MeasurableInv G]
```

File: Mathlib/MeasureTheory/Group/LIntegral.lean [hunk 3]
```diff
@@ -53,6 +53,21 @@ theorem lintegral_div_right_eq_self [IsMulRightInvariant μ] (f : G → ℝ≥0
...
+
+/-- Involuting a function does not change its Lebesgue integral with respect to a
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Group/LIntegral.lean:60]: I have never seen the expression "involuting a function" and did not successfully guess what that was. Can you replace that by a more explicit description?

File: Mathlib/MeasureTheory/Group/LIntegral.lean [hunk 4]
```diff
@@ -53,6 +53,21 @@ theorem lintegral_div_right_eq_self [IsMulRightInvariant μ] (f : G → ℝ≥0
...
+inverse-invariant measure. -/
+@[to_additive]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Group/LIntegral.lean:62]: Please add a docstring to the additive version as well (with `@[to_additive "here is a docstring"]`)

**Review by RemyDegenne — APPROVED** [review]
Thanks!

**Comment by RemyDegenne** [comment]
When the PR is ready to review again (as I guess it is now), you should remove the `awaiting-author` label. Otherwise it does not show up in the PR queue that we look at for reviewing.
